US06787536B2
4-(R)-Benzyl-3-(2-(R)-{4-[5-(4-chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-3-methylbutyryl)oxazolidin-2-one
Prepared according to the method for the preparation of 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-ulfonylmethyl}-3-methyl-butyryl)oxazolidin-2-one, from 5-(4-chlorophenyl)-2-piperidin-4-ylpyrimidine (0.123 g) and 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)-oxazolidin-2-one (0.269 g), to yield the title compound as a cream foam (0.275 g, 100%).

reactant | 5-(4-chlorophenyl)-2-piperidin-4-ylpyrimidine | 0.123 g | ClC1=CC=C(C=C1)C=1C=NC(=NC1)C1CCNCC1 | C15H16ClN3
reactant | 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)-oxazolidin-2-one | 0.269 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)Cl)=O | C16H20ClNO5S
product | 4-(R)-Benzyl-3-(2-(R)-{4-[5-(4-chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-3-methylbutyryl)oxazolidin-2-one | 0.275 g, 100% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCC(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)Cl)=O | C31H35ClN4O5S
